US05543414
A mixture of (R)-2-(2-amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-1-acetoxy-3-benzyloxy-propane in 30% ammonia/methanol (1:2) was stirred at ambient temperature for 18 hours. The solvent was evaporated and the residue was triturated with a small amount of methanol. The pale yellow solid was collected to give (S)-2-(2-Amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-1-benzyloxy-propan-3-ol. The mother liquor was concentrated and the residue recrystallized from hot methanol to give a second crop of the product.

reactant | (R)-2-(2-amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-1-acetoxy-3-benzyloxy-propane | NC=1NC(C=2N=CN(C2N1)CO[C@@H](COC(C)=O)COCC1=CC=CC=C1)=O | C18H21N5O5
solvent | ammonia methanol | N.CO
product | (S)-2-(2-Amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-1-benzyloxy-propan-3-ol | NC=1NC(C=2N=CN(C2N1)CO[C@H](COCC1=CC=CC=C1)CO)=O | C16H19N5O4
